US06943266B1
7-(3,5-Dimethoxyphenyl)-7-methyl-1-octyne (8-065).
[7-(3,5-Dimethoxyphenyl)-7-methyl-1-octynyl]trimethysilane (900 mg, 2.73 mmol) was dissolved in 3.5 mL of anhydrous methanol. Anhydrous potassium carbonate (75 mg, 0.55 mmol, 20 mol %) was added and the heterogeneous mixture was stirred at room temperature, under argon, for 24 h. The reaction mixture was diluted with water and extracted with diethyl ether. The ether extract was dried, concentrated by rotary evaporation and the residue was purified by chromatography on silica gel (5% ethyl ether-petroleum ether) to give 540 mg (76%) of the desilylated product. Anal. calcd. for C17H24O2 C, 78.42; H, 9.29.

reactant | [7-(3,5-Dimethoxyphenyl)-7-methyl-1-octynyl]trimethysilane | 2.73 mmol, 900 mg | COC=1C=C(C=C(C1)OC)C(CCCCC#C[Si](C)(C)C)(C)C | C20H32O2Si
reactant | potassium carbonate | 0.55 mmol, 75 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3.5 mL | CO | CH4O
solvent | water | O | H2O
product | 7-(3,5-Dimethoxyphenyl)-7-methyl-1-octyne | 540 mg, 76% | COC=1C=C(C=C(C1)OC)C(CCCCC#C)(C)C | C17H24O2
